US06136823
Synthesis of 1-(5-Amino-4-fluoro-2-methylphenyl)-8-chloro-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
A 40% aqueous solution (100 mg) of methylamine and 1-(5-amino-4-fluoro-2-methylphenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (100 mg) were added to pyridine (2 ml), and the mixture was stirred at room temperature for 2 hours. After the solvent was distilled off under reduced pressure, a mixed liquid of ethanol and diethyl ether was added to the residue, and the mixture was left to stand overnight. Solids deposited were collected by filtration to obtain the title compound (63 mg) as colorless crystals.

reactant | methylamine | CN | CH5N
reactant | 1-(5-amino-4-fluoro-2-methylphenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)C)F | C17H10ClF3N2O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-4-fluoro-2-methylphenyl)-8-chloro-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 63 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NC)F)=O)C(=O)O)C)F | C18H14ClF2N3O3
